### PR TITLE
feat: introduce Gram matrices 

### PR DESCRIPTION
**Pull request by pfaffelh**
A Gram matrix has entry `⟪v i, v j⟫` at `i j : n`, where `v : n → α` is an `InnerProductSpace 𝕜 α`. 
Give this notion and show that Gram matrices are positive semi-definite.
This will be used later in order to show that the covariance matrix for Brownian Motion is positive semi-definite.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 1]
```diff
@@ -0,0 +1,132 @@
...
+
+/-- A Gram matrix is Hermitian. -/
+lemma IsHermitian {M : Matrix n n 𝕜} {v : n → E} (hM : IsGram M v) : M.IsHermitian := by
+  refine IsHermitian.ext_iff.mpr (fun i j ↦ ?_)
+  rw [hM, Gram, Gram]
+  simp only [RCLike.star_def, inner_conj_symm]
+
+/-- A Gram matrix is positive semidefinite. -/
+theorem PosSemidef [Fintype n] {M : Matrix n n 𝕜} {v : n → E} (hM : IsGram M v) :
+    @PosSemidef _ _ _ _ toPartialOrder _ M := by
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:65]:
```suggestion
    PosSemidef M := by
```
You will need to `open scoped ComplexOrder` at the top of the file.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 2]
```diff
@@ -0,0 +1,132 @@
...
+noncomputable def Matrix.L2Gram (v : n → (α →₂[μ] 𝕜)) :
+  Matrix n n 𝕜 := Gram 𝕜 v
+
+lemma Matrix.IsGram.of_L2Gram (v : n →  (α →₂[μ] 𝕜)) : IsGram (L2Gram v) v := by
+  rfl
+
+lemma innerProduct_eq_inter (v w : (Set α)) (hv₁ : MeasurableSet v)
+  (hw₁ : MeasurableSet w) (hv₂ : μ v ≠ ⊤) (hw₂ : μ w ≠ ⊤) :
+  ⟪((indicatorConstLp 2 hv₁ hv₂ (1 : ℝ))), (indicatorConstLp 2 hw₁ hw₂ (1 : ℝ)) ⟫ =
+    (μ (v ∩ w)).toReal := by
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:105]:
```suggestion
lemma innerProduct_eq_inter {v w : Set α} (hv₁ : MeasurableSet v) (hw₁ : MeasurableSet w) 
    (hv₂ : μ v ≠ ⊤ := by finiteness) (hw₂ : μ w ≠ ⊤ := by finiteness) :
    ⟪indicatorConstLp 2 hv₁ hv₂ (1 : ℝ), indicatorConstLp 2 hw₁ hw₂ (1 : ℝ)⟫ = μ.real (v ∩ w) := by
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 3]
```diff
@@ -0,0 +1,132 @@
...
+
+* `Matrix.Gram.PosSemidef` Gram matrices are positive semi-definite.
+-/
+
+open RCLike Real Matrix MeasureTheory
+
+open scoped InnerProductSpace
+
+variable {E n : Type*}
+variable {α : Type*} [MeasurableSpace α] {μ : Measure α}
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:32]:
```suggestion
variable {α : Type*} {mα : MeasurableSpace α} {μ : Measure α}
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 4]
```diff
@@ -0,0 +1,132 @@
...
+variable {𝕜 : Type*} [RCLike 𝕜]
+variable [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:34]:
```suggestion
variable [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
```
here and below.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 5]
```diff
@@ -0,0 +1,132 @@
...
+  have h : ((indicatorConstLp 2 hw₁ hw₂ (1 : ℝ)) : α → ℝ) =ᶠ[ae μ] w.indicator fun x ↦ (1 : ℝ) :=
+    indicatorConstLp_coeFn (hs := hw₁) (hμs := hw₂)
+  have g : ∀ᵐ (x : α) ∂μ, x ∈ v → ((indicatorConstLp 2 hw₁ hw₂ (1 : ℝ)) : α → ℝ) x =
+      w.indicator (fun x ↦ (1 : ℝ)) x := Filter.Eventually.mono h fun x a a_1 ↦ a
+  rw [setIntegral_congr_ae hv₁ g, setIntegral_indicator hw₁]
+  simp
+  rfl
+
+/-- A matrix with entry `μ (v i ∩ v j)` at index `i j : n`. -/
+def interMatrix (μ : Measure α) (v : n → (Set α)) : Matrix n n ℝ := fun i j ↦ (μ (v i ∩ v j)).toReal
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:116]: Do you really need this definition? A definition is costly, because it means you have to build an API around it, so it's only worth it if you will use it several times in several statements. 
By the way, please use `μ.real (v i ∩ v j)`.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 6]
```diff
@@ -0,0 +1,132 @@
...
+local notation "⟪" x ", " y "⟫" => @inner ℝ _ _ x y
+
+/-- Special case of a Gram matrix where the underlying inner product space is an L2-space. -/
+noncomputable def Matrix.L2Gram (v : n → (α →₂[μ] 𝕜)) :
+  Matrix n n 𝕜 := Gram 𝕜 v
+
+lemma Matrix.IsGram.of_L2Gram (v : n →  (α →₂[μ] 𝕜)) : IsGram (L2Gram v) v := by
+  rfl
+
+lemma innerProduct_eq_inter (v w : (Set α)) (hv₁ : MeasurableSet v)
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:102]: This should probably be in the `MeasureTheory` namespace (and all the neighboring material also)

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 7]
```diff
@@ -0,0 +1,132 @@
...
+namespace Matrix
+
+/-- The entries of a Gram matrix are inner products of vectors in an inner product space. -/
+def Gram (𝕜 : Type*) [RCLike 𝕜] [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+    (v : n → E) : Matrix n n 𝕜  := fun i j ↦ inner 𝕜 (v i) (v j)
+
+local notation "⟪" x ", " y "⟫" => @inner 𝕜  _ _ x y
+
+/-- A `M : Matrix n n 𝕜` is a Gram matrix if `M = Gram 𝕜 v` for some `v : n → E`. -/
+def IsGram (M : Matrix n n 𝕜) (v : n → E) : Prop := (M = Gram 𝕜 v)
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:45]: This doesn't look very useful to me; why have `IsGram M v` when we can write `M = Gram _ v` which is only a few character longer?

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:45]: Or did you mean to define this as "_there exists some `v`_, such that `M = gram _ v`"?

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 8]
```diff
@@ -0,0 +1,132 @@
...
+
+This file defines Gram matrices and proves their positive semi-definiteness.
+Results require `RCLike 𝕜`.
+
+## Main definition
+
+* `Matrix.Gram` : the `Matrix n n 𝕜` with `⟪v i, v j⟫` at `i j : n`, where `v : n → α` for an
+`InnerProductSpace 𝕜 α`.
+* `Matrix.L2Gram` : special case of `Matrix.Gram` where the `InnerProductSpace 𝕜 α`
+  is an `L2`-space.
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:20]: This is true. The main example why I started this file is the positive semi-definiteness of `fun s t ↦ s ∧ t`, i.e. the covariance matrix for Brownian Motion. This can be seen as a Gram matrix wrt the L2 integrable functions wrt Lebesgue measure on `ℝ≥0`. Now I opened a file `Probability.Process.BrownianMotion` which -- at the moment -- contains the results in the MeasureTheory namespace of the recent commit.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 9]
```diff
@@ -0,0 +1,132 @@
...
+
+## Main results
+
+* `Matrix.Gram.PosSemidef` Gram matrices are positive semi-definite.
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:24]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 3 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:32]: Done (in the file `BrowniaMotion.lean`).

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 4 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:34]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 10]
```diff
@@ -0,0 +1,132 @@
...
+
+variable {E n : Type*}
+variable {α : Type*} [MeasurableSpace α] {μ : Measure α}
+variable {𝕜 : Type*} [RCLike 𝕜]
+variable [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+
+namespace Matrix
+
+/-- The entries of a Gram matrix are inner products of vectors in an inner product space. -/
+def Gram (𝕜 : Type*) [RCLike 𝕜] [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:39]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 1 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:65]: Done. Thanks for hint, which I could not resolve y myself.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 11]
```diff
@@ -0,0 +1,132 @@
...
+
+section L2
+
+open L2 ENNReal
+
+local notation "⟪" x ", " y "⟫" => @inner ℝ _ _ x y
+
+/-- Special case of a Gram matrix where the underlying inner product space is an L2-space. -/
+noncomputable def Matrix.L2Gram (v : n → (α →₂[μ] 𝕜)) :
+  Matrix n n 𝕜 := Gram 𝕜 v
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:97]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 7 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:45]: You are right, this doesn't add anything. I removed this definition.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 12]
```diff
@@ -0,0 +1,132 @@
...
+local notation "⟪" x ", " y "⟫" => @inner 𝕜  _ _ x y
+
+/-- A `M : Matrix n n 𝕜` is a Gram matrix if `M = Gram 𝕜 v` for some `v : n → E`. -/
+def IsGram (M : Matrix n n 𝕜) (v : n → E) : Prop := (M = Gram 𝕜 v)
+
+namespace IsGram
+
+@[simp]
+lemma of_Gram (v : n → E) : IsGram (Gram 𝕜 v) v := by
+  rfl
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:51]: As Eric Wieser said below this doesn't add anything, so I removed it.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 13]
```diff
@@ -0,0 +1,132 @@
...
+  refine ⟨?_, ?_⟩
+  · simp only [map_zero]
+    exact inner_self_nonneg
+  · simp only [map_zero, inner_self_im, y]
+
+end IsGram
+
+end Matrix
+
+section L2
```
[the remark this answers is not in the document]
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:89]: See my answer above on the new `BrownianMotion` file.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 2 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:105]: The `by finiteness` looks as if I am proving an assumption, which seems weird... I am not sure what this does. 
Thanks for the hint with `μ.real`, which I accepted throughout.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 5 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:116]: Agreed, I got rid of the definition.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 6 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:102]: This is now in the new file `BrownianMotion` in the `MeasureTheory` namespace.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 14]
```diff
@@ -0,0 +1,79 @@
...
+variable {E n : Type*}
+variable {α : Type*}
+variable {𝕜 : Type*} [RCLike 𝕜]
+variable [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+
+namespace Matrix
+
+/-- The entries of a Gram matrix are inner products of vectors in an inner product space. -/
+def gram (𝕜 : Type*) [RCLike 𝕜] [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+    (v : n → E) : Matrix n n 𝕜 := fun i j ↦ inner 𝕜 (v i) (v j)
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:39]:
```suggestion
    (v : n → E) : Matrix n n 𝕜 := of fun i j ↦ inner 𝕜 (v i) (v j)
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 15]
```diff
@@ -0,0 +1,79 @@
...
+
+local notation "⟪" x ", " y "⟫" => @inner 𝕜  _ _ x y
+
+namespace Gram
+
+/-- For the matrix `gram 𝕜 v`, the entry at `i j : n` equals `⟪v i, v j⟫`. -/
+lemma entry {v : n → E} (i j : n) : (gram _ v) i j = ⟪v i, v j⟫ := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:46]:
```suggestion
lemma gram_apply (v : n → E) (i j : n) : (gram _ v) i j = ⟪v i, v j⟫ := by
```
and similarly below. You should drop the `namespace Gram` above in favor of putting `gram` in the names

File: Mathlib/Probability/Process/BrownianMotion.lean [hunk 16]
```diff
@@ -0,0 +1,91 @@
...
+
+namespace L2
+
+local notation "⟪" x ", " y "⟫" => @inner ℝ _ _ x y
+
+/-- In an `L2` space, the inner product of indicator functions equals the measure of the
+intersection. -/
+lemma innerProduct_eq_interMatrix {v w : (Set α)} (hv₁ : MeasurableSet v)
+  (hw₁ : MeasurableSet w) (hv₂ : μ v ≠ ⊤ := by finiteness) (hw₂ : μ w ≠ ⊤ := by finiteness) :
+  ⟪((indicatorConstLp 2 hv₁ hv₂ (1 : ℝ))), (indicatorConstLp 2 hw₁ hw₂ (1 : ℝ))⟫ =
```
Comment (eric-wieser) [inline Mathlib/Probability/Process/BrownianMotion.lean:45]: Can you generalize away from `1` here?

File: Mathlib/Probability/Process/BrownianMotion.lean [hunk 17]
```diff
@@ -0,0 +1,91 @@
...
+    indicatorConstLp_coeFn (hs := hw₁) (hμs := hw₂)
+  have g : ∀ᵐ (x : α) ∂μ, x ∈ v → ((indicatorConstLp 2 hw₁ hw₂ (1 : ℝ)) : α → ℝ) x =
+      w.indicator (fun x ↦ (1 : ℝ)) x := Filter.Eventually.mono h fun x a a_1 ↦ a
+  rw [setIntegral_congr_ae hv₁ g, setIntegral_indicator hw₁]
+  simp
+
+/-- In an `L2` space, the matrix of intersections of pairs of sets is positive semi-definite. -/
+theorem posSemidef_interMatrix [Fintype n] (μ : Measure α) (v : n → (Set α))
+    (hv₁ : ∀ j, MeasurableSet (v j)) (hv₂ : ∀ j, μ (v j) ≠ ⊤) :
+      PosSemidef (fun (i j : n) ↦ (μ.real (v i ∩ v j))) := by
```
Comment (eric-wieser) [inline Mathlib/Probability/Process/BrownianMotion.lean:58]:
```suggestion
      PosSemidef of (fun (i j : n) ↦ (μ.real (v i ∩ v j))) := by
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 14 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:39]: Done, thanks for pointing me to `of` for matrices.

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:39]: Looks like you didn't push the change

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 16 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean:45]: Yes, I did that now, but kept the special case also as a lemma.

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 17 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean:58]: Done

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 15 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 14 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Indeed, I wasn't done yet...

File: Mathlib/Probability/Process/BrownianMotion.lean [hunk 18]
```diff
@@ -0,0 +1,80 @@
...
+end L2
+
+end MeasureTheory
+
+namespace Probability
+
+namespace BrownianMotion
+
+/-- The covariance matrix of Brownian Motion. -/
+def covMatrix (t : n → ℝ≥0) : Matrix n n ℝ := fun i j ↦ min (t i) (t j)
```
Comment (eric-wieser) [inline Mathlib/Probability/Process/BrownianMotion.lean:60]:
```suggestion
def covMatrix (t : n → ℝ≥0) : Matrix n n ℝ := of fun i j ↦ min (t i) (t j)
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 19]
```diff
@@ -0,0 +1,75 @@
...
+Results require `RCLike 𝕜`.
+
+## Main definition
+
+* `Matrix.Gram` : the `Matrix n n 𝕜` with `⟪v i, v j⟫` at `i j : n`, where `v : n → α` for an
+`InnerProductSpace 𝕜 α`.
+
+## Main results
+
+* `Matrix.IsGram.PosSemidef` Gram matrices are positive semi-definite.
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Can you change the name to the current version?

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 20]
```diff
@@ -0,0 +1,75 @@
...
+variable {E n : Type*}
+variable {α : Type*}
+variable {𝕜 : Type*} [RCLike 𝕜]
+variable [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+
+namespace Matrix
+
+/-- The entries of a Gram matrix are inner products of vectors in an inner product space. -/
+def gram (𝕜 : Type*) [RCLike 𝕜] [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+    (v : n → E) : Matrix n n 𝕜 := of fun i j ↦ inner 𝕜 (v i) (v j)
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]:
```suggestion
def gram (𝕜 : Type*) [Inner 𝕜 E] (v : n → E) : Matrix n n 𝕜 := 
  of fun i j ↦ inner 𝕜 (v i) (v j)
```
Since the definition only needs the existence of an inner product, you can as well only assume that. Of course, theorems will need stronger typeclasses.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 21]
```diff
@@ -0,0 +1,75 @@
...
+
+local notation "⟪" x ", " y "⟫" => @inner 𝕜  _ _ x y
+
+/-- For the matrix `gram 𝕜 v`, the entry at `i j : n` equals `⟪v i, v j⟫`. -/
+lemma gram_apply {v : n → E} (i j : n) : (gram _ v) i j = ⟪v i, v j⟫ := by
+  rw [gram, of_apply]
+
+/-- A Gram matrix is Hermitian. -/
+lemma gram_isHermitian {v : n → E} : (gram 𝕜 v).IsHermitian := by
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]:
```suggestion
lemma isHermitian_gram {v : n → E} : (gram 𝕜 v).IsHermitian := by
```
If you forget about dot notation, the statement is really `IsHermitian (gram k v)`, so the lemma name should follow this order. Same thing below.

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 22]
```diff
@@ -256,6 +256,36 @@ theorem inner_indicatorConstLp_one (hs : MeasurableSet s) (hμs : μ s ≠ ∞)
...
 
+local notation "⟪" x ", " y "⟫" => @inner ℝ _ _ x y
+
+/- The inner product in `L2` of multiples `a` and `b` of indicators of two sets with finite measure
+is `a * b` times the measure of the intersection. -/
+lemma inner_indicatorConstLp_indicatorConstLp
+ {v w : (Set α)} (hv : MeasurableSet v)
+  (hw : MeasurableSet w) (hμv : μ v ≠ ∞) (hμw : μ w ≠ ∞) (a b : ℝ):
+  ⟪((indicatorConstLp 2 hv hμv (a : ℝ))), (indicatorConstLp 2 hw hμw (b : ℝ))⟫ =
+    a * b * (μ.real (v ∩ w)) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L2Space.lean]:
```suggestion
lemma inner_indicatorConstLp_indicatorConstLp {v w : Set α} (hv : MeasurableSet v)
    (hw : MeasurableSet w) (hμv : μ v ≠ ∞ := by finiteness) (hμw : μ w ≠ ∞ := by finiteness) 
    (a b : ℝ) :
    ⟪indicatorConstLp 2 hv hμv a, indicatorConstLp 2 hw hμw b⟫ = a * b * μ.real (v ∩ w) := by
```
I've fixed the indentation, spurious spaces and useless parentheses.

I've also added back `:= by finiteness`. What that means is that, when applying the lemma, the user won't need in some cases to provide the proof of `hμv` and `hμw`, this will done under the hood by the system (for instance if mu is a finite measure). This is very useful!

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 23]
```diff
@@ -256,6 +256,36 @@ theorem inner_indicatorConstLp_one (hs : MeasurableSet s) (hμs : μ s ≠ ∞)
...
+
+/- The inner product in `L2` of indicators of two sets with finite measure
+is the measure of the intersection. -/
+lemma inner_indicatorConstLp_one_indicatorConstLp_one
+ {v w : (Set α)} (hv : MeasurableSet v)
+  (hw : MeasurableSet w) (hμv : μ v ≠ ∞) (hμw : μ w ≠ ∞) :
+  ⟪((indicatorConstLp 2 hv hμv (1 : ℝ))), (indicatorConstLp 2 hw hμw (1 : ℝ))⟫ =
+    (μ.real (v ∩ w)) := by
+  rw [inner_indicatorConstLp_indicatorConstLp]
+  simp
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L2Space.lean]:
```suggestion
    {v w : Set α} (hv : MeasurableSet v)
    (hw : MeasurableSet w) (hμv : μ v ≠ ∞ := by finiteness) (hμw : μ w ≠ ∞ := by finiteness) :
    ⟪indicatorConstLp 2 hv hμv (1 : ℝ), indicatorConstLp 2 hw hμw (1 : ℝ)⟫ = μ.real (v ∩ w) := by
  simp [inner_indicatorConstLp_indicatorConstLp]
```
Same thing.

File: Mathlib/Probability/Process/BrownianMotion.lean [hunk 24]
```diff
@@ -0,0 +1,80 @@
...
+namespace MeasureTheory
+
+namespace L2
+
+local notation "⟪" x ", " y "⟫" => @inner ℝ _ _ x y
+
+/-- In an `L2` space, the matrix of intersections of pairs of sets is positive semi-definite. -/
+theorem posSemidef_interMatrix [Fintype n] (μ : Measure α) (v : n → (Set α))
+    (hv₁ : ∀ j, MeasurableSet (v j)) (hv₂ : ∀ j, μ (v j) ≠ ⊤) :
+      PosSemidef (of fun i j : n ↦ μ.real (v i ∩ v j)) := by
```
Comment (sgouezel) [inline Mathlib/Probability/Process/BrownianMotion.lean]: can you use \infty of top, and fix the indentation? Also make mu and v implicit, since they can be inferred from other arguments.

File: Mathlib/Probability/Process/BrownianMotion.lean [hunk 25]
```diff
@@ -0,0 +1,80 @@
...
+  conv =>
+    right; right; intro i j;
+    rw [← inner_indicatorConstLp_one_indicatorConstLp_one (hv₁ i) (hv₁ j) (hv₂ i) (hv₂ j)]
+  rw [← gram]
+  exact gram_posSemidef
```
Comment (sgouezel) [inline Mathlib/Probability/Process/BrownianMotion.lean]:
```suggestion
  simp only [hv₁, ne_eq, hv₂, not_false_eq_true, ← inner_indicatorConstLp_one_indicatorConstLp_one]
  exact gram_posSemidef
```
Don't hesitate to use and abuse of `simp`, it can rewrite under binders and it is extremely powerful.

File: Mathlib/Probability/Process/BrownianMotion.lean [hunk 26]
```diff
@@ -0,0 +1,80 @@
...
+def covMatrix (t : n → ℝ≥0) : Matrix n n ℝ := of fun i j ↦ min (t i) (t j)
+
+namespace CovMatrix
+
+/-- The covariance matrix of Brownian Motion is positive semi-definite. -/
+theorem posSemidef [Fintype n] (t : n → ℝ≥0) :
+    PosSemidef (covMatrix t) := by
+  let v : n → (Set ℝ) := fun i ↦ Set.Icc 0 (t i)
+  have h : covMatrix t = fun i j ↦ (volume.real ((Icc 0 (t i).toReal) ∩ (Icc 0 (t j)))) := by
+    simp [Set.Icc_inter_Icc]
```
Comment (sgouezel) [inline Mathlib/Probability/Process/BrownianMotion.lean]: squeeze the nonterminal simp.

File: Mathlib/Probability/Process/BrownianMotion.lean [hunk 27]
```diff
@@ -0,0 +1,80 @@
...
+end MeasureTheory
+
+namespace Probability
+
+namespace BrownianMotion
+
+/-- The covariance matrix of Brownian Motion. -/
+def covMatrix (t : n → ℝ≥0) : Matrix n n ℝ := of fun i j ↦ min (t i) (t j)
+
+namespace CovMatrix
```
Comment (sgouezel) [inline Mathlib/Probability/Process/BrownianMotion.lean]: I'm not sure it's worth going in a further namespace: I'd just call the lemma `posSemidef_covMatrix`.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 19 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Sorry, I forgit that. Done.

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 18 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean]: Done.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 20 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 21 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: This also goes in line with "result first". Done.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 22 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: Yes, this sounds useful. I understand that `finiteness` might also fail, then the user has to provide a proof, still. I accepted your changes.

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 25 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean]: It is surprising that simp can do so much... Done.

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 24 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean]: Done.

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 26 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean]: Done.

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 27 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean]: Ok, no need for another namespace. I also changed the name in the header of the file.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 23 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 28]
```diff
@@ -0,0 +1,74 @@
...
+
+/-! # Gram Matrices
+
+This file defines Gram matrices and proves their positive semi-definiteness.
+Results require `RCLike 𝕜`.
+
+## Main definition
+
+* `Matrix.gram` : the `Matrix n n 𝕜` with `⟪v i, v j⟫` at `i j : n`, where `v : n → E` for an
+`Inner 𝕜 E`.
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]:
```suggestion
* `Matrix.gram` : the `Matrix n n 𝕜` with `⟪v i, v j⟫` at `i j : n`, where `v : n → E` for an
  `Inner 𝕜 E`.
```

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 29]
```diff
@@ -256,6 +256,33 @@ theorem inner_indicatorConstLp_one (hs : MeasurableSet s) (hμs : μ s ≠ ∞)
...
   rw [L2.inner_indicatorConstLp_eq_inner_setIntegral 𝕜 hs hμs (1 : 𝕜) f]; simp
 
+local notation "⟪" x ", " y "⟫" => @inner ℝ _ _ x y
+
+/- The inner product in `L2` of multiples `a` and `b` of indicators of two sets with finite measure
+is `a * b` times the measure of the intersection. -/
+lemma inner_indicatorConstLp_indicatorConstLp {v w : Set α} (hv : MeasurableSet v)
+    (hw : MeasurableSet w) (hμv : μ v ≠ ∞ := by finiteness) (hμw : μ w ≠ ∞ := by finiteness)
+    (a b : ℝ) :
+    ⟪indicatorConstLp 2 hv hμv a, indicatorConstLp 2 hw hμw b⟫ = a * b * μ.real (v ∩ w) := by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/L2Space.lean]: This should be generalized (after dropping the `local notation` above) to
```suggestion
lemma inner_indicatorConstLp_indicatorConstLp [CompleteSpace E] [NormedSpace ℝ E] {v w : Set α} (hv : MeasurableSet v)
    (hw : MeasurableSet w) (hμv : μ v ≠ ∞ := by finiteness) (hμw : μ w ≠ ∞ := by finiteness)
    (a b : E) :
    ⟪indicatorConstLp 2 hv hμv a, indicatorConstLp 2 hw hμw b⟫ = μ.real (v ∩ w) • ⟪a, b⟫ := by
```

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 30]
```diff
@@ -256,6 +256,33 @@ theorem inner_indicatorConstLp_one (hs : MeasurableSet s) (hμs : μ s ≠ ∞)
...
+    Set.univ_inter, smul_eq_mul, RCLike.inner_apply, conj_trivial]
+  · ring
+  · simp
+
+/- The inner product in `L2` of indicators of two sets with finite measure
+is the measure of the intersection. -/
+lemma inner_indicatorConstLp_one_indicatorConstLp_one
+    {v w : Set α} (hv : MeasurableSet v)
+    (hw : MeasurableSet w) (hμv : μ v ≠ ∞ := by finiteness) (hμw : μ w ≠ ∞ := by finiteness) :
+    ⟪indicatorConstLp 2 hv hμv (1 : ℝ), indicatorConstLp 2 hw hμw (1 : ℝ)⟫ = μ.real (v ∩ w) := by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/L2Space.lean]:
```suggestion
    ⟪indicatorConstLp 2 hv hμv (1 : 𝕜), indicatorConstLp 2 hw hμw (1 : 𝕜)⟫ = μ.real (v ∩ w) := by
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 28 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Done.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 29 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: Ah, right. I made the change.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 30 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: Analogously...

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 29 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: You haven't pushed it

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 25 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean]: In the meantime, `inner_indicatorConstLp_one_indicatorConstLp_one` got more general, such that `simp`cannot handle the simplification any more. I turned back to `conv` for this reason.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 29 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: Now I have (and it compiles again).

File: Mathlib/Probability/Process/BrownianMotion.lean [hunk 31]
```diff
@@ -0,0 +1,80 @@
...
+local notation "⟪" x ", " y "⟫" => @inner ℝ _ _ x y
+
+/-- In an `L2` space, the matrix of intersections of pairs of sets is positive semi-definite. -/
+theorem posSemidef_interMatrix [Fintype n] {μ : Measure α} {v : n → (Set α)}
+    (hv₁ : ∀ j, MeasurableSet (v j)) (hv₂ : ∀ j, μ (v j) ≠ ∞ := by finiteness) :
+    PosSemidef (of fun i j : n ↦ μ.real (v i ∩ v j)) := by
+  conv =>
+    right; right; intro i j;
+    rw [← id_eq (μ.real (v i ∩ v j)), ← RCLike.ofReal_real_eq_id,
+      ← inner_indicatorConstLp_one_indicatorConstLp_one (hv₁ i) (hv₁ j) (hv₂ i) (hv₂ j)]
```
Comment (eric-wieser) [inline Mathlib/Probability/Process/BrownianMotion.lean]: I think it would be reasonable to make a copy of `inner_indicatorConstLp_one_indicatorConstLp_one` for the case when `\bbk` is the reals, and the proof should be `:= inner_indicatorConstLp_one_indicatorConstLp_one`

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 32]
```diff
@@ -256,6 +256,33 @@ theorem inner_indicatorConstLp_one (hs : MeasurableSet s) (hμs : μ s ≠ ∞)
...
+is the measure of the intersection. -/
+lemma inner_indicatorConstLp_one_indicatorConstLp_one
+    {v w : Set α} (hv : MeasurableSet v)
+    (hw : MeasurableSet w) (hμv : μ v ≠ ∞ := by finiteness) (hμw : μ w ≠ ∞ := by finiteness) :
+    ⟪indicatorConstLp 2 hv hμv (1 : 𝕜), indicatorConstLp 2 hw hμw (1 : 𝕜)⟫ = μ.real (v ∩ w) := by
+  simp [inner_indicatorConstLp_indicatorConstLp, RCLike.ofReal_alg]
+
+example (a b : ℝ) : a = b ↔ (a : 𝕜) = (b : 𝕜) := by
+  rw [algebraMap.coe_inj]
+
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/L2Space.lean]: This is indeed a good way to experiment, but it can be deleted now :)

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 33]
```diff
@@ -0,0 +1,74 @@
...
+
+/-- A Gram matrix is Hermitian. -/
+lemma isHermitian_gram {v : n → E} : (gram 𝕜 v).IsHermitian := by
+  refine IsHermitian.ext_iff.mpr (fun i j ↦ ?_)
+  rw [gram, of_apply, of_apply]
+  simp only [RCLike.star_def, inner_conj_symm]
+
+/-- A Gram matrix is positive semidefinite. -/
+theorem gram_posSemidef [Fintype n] {v : n → E} :
+    PosSemidef (gram 𝕜 v) := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:71]: Could you also prove that it is PosDef when the `v` are linearly independent?

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 34]
```diff
@@ -0,0 +1,125 @@
...
+
+variable {E n : Type*}
+variable {α : Type*}
+variable {𝕜 : Type*}
+namespace Matrix
+
+/-- The entries of a Gram matrix are inner products of vectors in an inner product space. -/
+def gram (𝕜 : Type*) [Inner 𝕜 E] (v : n → E) : Matrix n n 𝕜 := of fun i j ↦ inner 𝕜 (v i) (v j)
+
+local notation "⟪" x ", " y "⟫" => @inner 𝕜  _ _ x y
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:40]: Do we still need this? I thought we had global notation now. Perhaps another reviewer knows.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 35]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- For the matrix `gram 𝕜 v`, the entry at `i j : n` equals `⟪v i, v j⟫`. -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: I'd suggest just dropping this, we usually only document things where the statement is hard to read, or has some unexpected generalizations.
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 36]
```diff
@@ -0,0 +1,125 @@
...
+lemma gram_apply [Inner 𝕜 E] {v : n → E} (i j : n) :
+    (gram _ v) i j = ⟪v i, v j⟫ := by
+  rw [gram, of_apply]
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: This is true by definition, so we should prove it by `rfl`.
```suggestion
@[simp]
lemma gram_apply [Inner 𝕜 E] (v : n → E) (i j : n) : (gram _ v) i j = ⟪v i, v j⟫ := rfl
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 37]
```diff
@@ -0,0 +1,125 @@
...
+/-- A Gram matrix is Hermitian. -/
+lemma isHermitian_gram [RCLike 𝕜]
+[SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E] {v : n → E} : (gram 𝕜 v).IsHermitian := by
+  refine IsHermitian.ext_iff.mpr (fun i j ↦ ?_)
+  rw [gram, of_apply, of_apply]
+  simp only [RCLike.star_def, inner_conj_symm]
+
+theorem gram_eq [RCLike 𝕜]
+[SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+ [Fintype n] {v : n → E} (y : E) (x : n → 𝕜) (hy : y = ∑ i, x i • v i) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Please fix the indents here and above. Since this and the  lemma before and after use the same variables, consider a `section SemiInnerProductSpace` or similar, with `variable` within it.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 38]
```diff
@@ -0,0 +1,125 @@
...
+    simp_rw [hy, sum_inner, inner_sum, inner_smul_left, inner_smul_right, mul_assoc]
+  _ = (∑ (i : n), ∑ (j : n), (starRingEnd 𝕜) (x i) * (x j) * ((gram 𝕜 v) i j)) := by
+    simp_rw [gram_apply]
+  _ = star x ⬝ᵥ (gram 𝕜 v) *ᵥ x := by
+    simp_rw [dotProduct, mul_assoc, ← Finset.mul_sum, mulVec, dotProduct, mul_comm, ← star_def]
+    rfl
+
+theorem gram_eq' [RCLike 𝕜]
+[SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E][Fintype n] {v : n → E} (x : n → 𝕜) :
+    ⟪∑ i, x i • v i, ∑ i, x i • v i⟫ = star x ⬝ᵥ (gram 𝕜 v) *ᵥ x := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]:
```suggestion
    star x ⬝ᵥ (gram 𝕜 v) *ᵥ x = ⟪∑ i, x i • v i, ∑ i, x i • v i⟫ := by
```
seems like a more natural way around, and then you can call it `star_dotProduct_gram_mulVec`

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 39]
```diff
@@ -0,0 +1,125 @@
...
+
+end PosSemidef
+
+section PosDef
+
+variable [RCLike 𝕜] [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+
+/-- A Gram matrix `gram 𝕜 v` is positive definite iff `v` is linearly independent. -/
+theorem gram_posDef_iff_linearIndependent [Fintype n] {v : n → E} :
+    PosDef (gram 𝕜 v) ↔ LinearIndependent 𝕜 v:= by
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: style fix:
```suggestion
    PosDef (gram 𝕜 v) ↔ LinearIndependent 𝕜 v := by
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 40]
```diff
@@ -0,0 +1,125 @@
...
+example (P Q : Prop) : (P → Q) ↔ (¬Q → ¬ P) := by exact Iff.symm not_imp_not
+
+end PosSemidef
+
+section PosDef
+
+variable [RCLike 𝕜] [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+
+/-- A Gram matrix `gram 𝕜 v` is positive definite iff `v` is linearly independent. -/
+theorem gram_posDef_iff_linearIndependent [Fintype n] {v : n → E} :
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Is the forward direction true under a weaker `SemiNormedAddCommGroup` assumption?

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 32 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Function/L2Space.lean]:
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 41]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- A Gram matrix is positive semidefinite. -/
+theorem gram_posSemidef [Fintype n] {v : n → E} :
+    PosSemidef (gram 𝕜 v) := by
+  refine ⟨isHermitian_gram, fun x ↦ ?_⟩
+  rw [← gram_eq', le_iff_re_im]
+  simp only [map_zero, inner_self_im, and_true]
+  exact inner_self_nonneg
+
+example (P Q : Prop) : (P → Q) ↔ (¬Q → ¬ P) := by exact Iff.symm not_imp_not
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Please try not to leave these around!

File: Mathlib/Probability/Process/BrownianMotion.lean (hunk 31 above)
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean]: I did that, and changed back the `conv`-proof to a `simp`-proof. I had to overwrite the `local noation` in `L2Space`, though.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 32 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: Sorry, deleted.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 34 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:40]: Not sure. It neither compiles if I delete it, nor if I delete `local`. I think the problem is that `𝕜` is only a local variable.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 35 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Ok, deleted.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 36 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: True, done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 37 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Ok, it is restructured now.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 38 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Ok, done (and deleted the lemma before).

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 40 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Yes, it is. I restructured the file using `variable`accordingly.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 41 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Sorry, done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 39 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 42]
```diff
@@ -0,0 +1,123 @@
...
+namespace Matrix
+
+/-- The entries of a Gram matrix are inner products of vectors in an inner product space. -/
+def gram (𝕜 : Type*) [Inner 𝕜 E] (v : n → E) : Matrix n n 𝕜 := of fun i j ↦ inner 𝕜 (v i) (v j)
+
+local notation "⟪" x ", " y "⟫" => @inner 𝕜  _ _ x y
+
+lemma gram_apply [Inner 𝕜 E] {v : n → E} (i j : n) :
+    (gram _ v) i j = ⟪v i, v j⟫ := by
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: `v` should be explicithere, and you may as well squeeze to one line and drop the `by`
```suggestion
lemma gram_apply [Inner 𝕜 E] (v : n → E) (i j : n) : (gram _ v) i j = ⟪v i, v j⟫ := rfl
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 43]
```diff
@@ -0,0 +1,123 @@
...
+
+variable [RCLike 𝕜]
+
+/-- A Gram matrix is Hermitian. -/
+lemma isHermitian_gram
+[SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E] {v : n → E} : (gram 𝕜 v).IsHermitian := by
+  refine IsHermitian.ext_iff.mpr (fun i j ↦ ?_)
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: This can move into the section below

Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 42 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Done.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 43 above)
Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Please don't mark things as done until you have `git push`ed!

Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Sorry, now it is pushed...

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 34 above)
Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:40]: We have the scoped (to `InnerProductSpace`, which is already open above) notation `⟪x, y⟫_𝕜`. Some files introduce the version without `_𝕜` as local notation for convenience (but it's not my personal preference to do so).

Also, in the scopes `RealInnerProductSpace` and `ComplexInnerProductSpace`, the notation `⟪x, y⟫` is valid (and expands to `_ℝ` and `_ℂ`, respectively).

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 44]
```diff
@@ -256,6 +256,38 @@ theorem inner_indicatorConstLp_one (hs : MeasurableSet s) (hμs : μ s ≠ ∞)
...
+/- The inner product in `L2` of indicators of two sets with finite measure
+is the measure of the intersection. -/
+lemma inner_indicatorConstLp_one_indicatorConstLp_one
+    {v w : Set α} (hv : MeasurableSet v)
+    (hw : MeasurableSet w) (hμv : μ v ≠ ∞ := by finiteness) (hμw : μ w ≠ ∞ := by finiteness) :
+    ⟪indicatorConstLp 2 hv hμv (1 : 𝕜), indicatorConstLp 2 hw hμw (1 : 𝕜)⟫ = μ.real (v ∩ w) := by
+  simp [inner_indicatorConstLp_indicatorConstLp, RCLike.ofReal_alg]
+
+local notation "⟪" x ", " y "⟫_ℝ" => inner ℝ x y
+
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/L2Space.lean:284]: I don't think this is necessary at all. If it is, just add `open scoped InnerProductSpace` to the top of the file.
```suggestion
```

File: Mathlib/Probability/Process/BrownianMotion.lean
Comment (j-loreaux) [inline Mathlib/Probability/Process/BrownianMotion.lean:1]: I'd prefer if this file was split off into a dependent PR.

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 45]
```diff
@@ -256,6 +256,38 @@ theorem inner_indicatorConstLp_one (hs : MeasurableSet s) (hμs : μ s ≠ ∞)
...
+lemma inner_indicatorConstLp_one_indicatorConstLp_one'
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/L2Space.lean:285]: How about:
```suggestion
lemma real_inner_indicatorConstLp_one_indicatorConstLp_one
```
and maybe not using the `one` specialization, but doing the generic lemma above?

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 34 above)
Comment (pfaffelh) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:40]: Ah, great. I now use `open scoped InnerProductSpace` at the beginning of the file and it works without `local notation`.

File: Mathlib/Probability/Process/BrownianMotion.lean
Comment (pfaffelh) [reply Mathlib/Probability/Process/BrownianMotion.lean:1]: I removed the file from the current PR.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 45 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean:285]: Done.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 44 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean:284]: Using `open scoped InnerProductSpace`, all works now. Thanks.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 45 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Function/L2Space.lean:285]: Done.
